US08859591B2
Step B: (+/−)-tert-butyl 3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoate
The title compound was prepared by a method analogous to that described in Steps B and C of Example 2, using ethyl 4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzoate and tert-butyl 3-(methylamino)propanoate. MS (M+1) 554.5.

reactant | ethyl 4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzoate | C1(=CC=CC=C1)C=1C=NN(C1)C1=CC=C(C=N1)NC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C27H28N4O2
reactant | tert-butyl 3-(methylamino)propanoate | CNCCC(=O)OC(C)(C)C | C8H17NO2
product | (+/−)-tert-butyl 3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoate | CN(C(C1=CC=C(C=C1)C(CCC)NC=1C=NC(=CC1)N1N=CC(=C1)C1=CC=CC=C1)=O)CCC(=O)OC(C)(C)C | C33H39N5O3
